US07816371B2
d. 2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)ethyl acetate
2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate (2.45 g, 0.00842 mol) was dissolved in methanol (100 mL), palladium on charcoal (10%) was added and the reaction mixture was stirred under an atmosphere of hydrogen for 1 hour. The mixture was filtered through celite, and solvent was removed. The product was obtained as a light orange solid (1.98 g). MS m/z=246.5(M+1).

reactant | 2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | 0.00842 mol, 2.45 g | C(C)(=O)OCCN1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C13H12N2O5
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | 1.98 g | C(C)(=O)OCCN1C(C2=CC=CC(=C2C=C1)N)=O | C13H14N2O3
